US04636509
5-Chloro-1-(2,4-dimethylphenacyl)pyrimidin-2-one
A mixture of 5-chloropyrimidin-2-one (425 mg) and 2-bromo-2',4'-dimethylacetophenone (682 mg) in triethylamine (1 ml) and ethanol (20 ml) was stirred at ambient temperature for 2 hours. The reaction mixture was diluted with water and the solid filtered off.

reactant | 5-chloropyrimidin-2-one | 425 mg | ClC=1C=NC(NC1)=O | C4H3ClN2O
reactant | 2-bromo-2',4'-dimethylacetophenone | 682 mg | BrCC(=O)C1=C(C=C(C=C1)C)C | C10H11BrO
solvent | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | 5-Chloro-1-(2,4-dimethylphenacyl)pyrimidin-2-one | ClC=1C=NC(N(C1)CC(=O)C1=C(C=C(C=C1)C)C)=O | C14H13ClN2O2
